US06964965B2
A 10 mL round bottom flask was charged with 3-bromo-5,6,7,8-tetrahydronaphthalen-2-yl methyl ether (560 mg, 2.32 mmol) and dried under high vacuum for 18 hours. The aryl bromide was diluted with THF (3.5 mL) and cooled to −78° C. with a dry ice/acetone bath. After 20 minutes, n-butyl lithium (2.5 M in hexane, 1.02 mL, 2.55 mmol) was added semi-drop wise. The reaction was kept at −78° C. for another hour before triethylborate (0.435 mL, 2.55 mmol) was added semi-drop wise and stirred at −78° C. for two hours. The reaction was quenched at −78° C. with 3M aq. HCl and allowed to warm to room temperature. The resulting biphasic mixture was partitioned between H2O and ethyl acetate (2×). The organics were combined and dried over Na2SO4, filtered and concentrated to give 510 mg (theoretical 478 mg) of 3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid as an ivory solid. 1H NMR shows contamination with ˜11% of the des-bromo by product. 1H NMR (400 MHz, CDCl3) δ 7.51 (s, 1 H), 6.61 (s, 1 H), 5.73 (s, 2 H), 3.87 (s, 3 H), 2.78 (m, 2 H), 2.71 (m, 2 H), 1.79 (m, 4 H).

reactant | 3-bromo-5,6,7,8-tetrahydronaphthalen-2-yl methyl ether | 2.32 mmol, 560 mg | COC1=CC=2CCCCC2C=C1Br | C11H13BrO
reactant | n-butyl lithium | 2.55 mmol, 2.5 M, 1.02 mL | C(CCC)[Li]
reactant | triethylborate | 2.55 mmol, 0.435 mL | C(C)OB(OCC)OCC | C6H15BO3
product | 3-methoxy-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid | 510 mg | COC=1C(=CC=2CCCCC2C1)B(O)O | C11H15BO3
